US07271296B2
In the last stage, V undergoes Wittig condensation with the phosphonium salt VI, which is obtainable from geranyllinalool, to give phytofluene.

reactant | phosphonium | [PH4+]
reactant | geranyllinalool | C(\C=C(/C)\CCC=C(C)C)C=CC(O)(C)CCC=C(C)C | C20H34O
product | phytofluene | CC(=CCC/C(=C/CC/C(=C/CC/C(=C/C=C/C=C(\C)/C=C/C=C(\C)/CC/C=C(\C)/CCC=C(C)C)/C)/C)/C)C | C40H62
